US05492919
5-[(3-(Piperidino)propyl)]-3-(1-ethyl-1H-indol-3-yl)-1,2,4-oxadiazole (E13)
1-Ethylindole-3-ylcarboxamide oxime (200 mg, 0.98 mmol, prepared by the general method of EP-A-328200) was dissolved in anhydrous THF (4 ml) containing 4-A° powdered molecular sieves (300 mg). The mixture was stirred for 30 mins., sodium hydride (80% dispersion in oil) (40 mg, 1.3 mmol) was added and the mixture was heated at 60° C. for 20 min. It was then cooled to RT and a solution of methyl-4-piperidinyl butyrate (364 mg, 1.98 mmol) in THF (2 mol) was added. The resulting mixture was heated at reflux for 1 hr., cooled, filtered and the filtrate concentrated under vacuum. The residue was purified by column chromatography to give the product (210 mg).

reactant | 1-Ethylindole-3-ylcarboxamide oxime | C(C)N1C=C(C2=CC=CC=C12)C(N)=NO | C11H13N3O
reactant | sodium hydride | 1.3 mmol, 40 mg | [H-].[Na+]
reactant | methyl-4-piperidinyl butyrate | 1.98 mmol, 364 mg | C(CCC)(=O)OC1CCN(CC1)C | C10H19NO2
reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | THF | 2 mol | C1CCOC1 | C4H8O
product | 5-[(3-(Piperidino)propyl)]-3-(1-ethyl-1H-indol-3-yl)-1,2,4-oxadiazole | 210 mg | N1(CCCCC1)CCCC1=NC(=NO1)C1=CN(C2=CC=CC=C12)CC | C20H26N4O
